US05393761
Methyl 6-chloro-3-(4-fluorophenyl)-1H-indole-2-carboxylate 23a.
To a mixture of a 50% sodium hydride suspension in mineral oil (52.5 g) (which was extracted with dry heptane) and dry tetrahydrofuran (250 ml) was added a solution of N-benzoyl 5-chloro-2-(4-fluorobenzoyl)aniline (129 g) in dry tetrahydrofuran (500 ml) during 0.5 h at 20° C. (ice bath). After 1 h methyl 2-bromoacetate (101 ml) was added during 0.5 h at 20° C. (ice bath) and the mixture was stirred for another 1 hour. The solvents were evaporated in vacuo. The remaining oil was diluted with methanol (250 ml) and 5.4M sodium methoxide in methanol (670 ml) was added carefully. After 1 h at room temperature the solvents were evaporated in vacuo and water (0.5 l) was added. The thus obtained mixture was extracted with ethyl acetate (2×0.75 l) and the combined organic phases were washed with brine and dried (Na2SO4). Evaporation of the solvents in vacuo afforded the title compound, which was purified by column chromatography on silica gel (eluted with ethyl acetate/heptane 1:3) and crystallized from heptane. Yield: 33 g, mp 172°-183° C.

reactant | sodium hydride | [H-].[Na+]
reactant | N-benzoyl 5-chloro-2-(4-fluorobenzoyl)aniline | 129 g | C(C1=CC=CC=C1)(=O)NC1=C(C=CC(=C1)Cl)C(C1=CC=C(C=C1)F)=O | C20H13ClFNO2
reactant | methyl 2-bromoacetate | 101 ml | BrCC(=O)OC | C3H5BrO2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | Methyl 6-chloro-3-(4-fluorophenyl)-1H-indole-2-carboxylate | ClC1=CC=C2C(=C(NC2=C1)C(=O)OC)C1=CC=C(C=C1)F | C16H11ClFNO2
